US07576074B2
To a suspension of {[4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-yl]oxy}acetonitrile (14.7 g; 39.3 mmol) in EtOH (600 ml) was added a 50% aqueous solution of NH2OH (24.1 ml; 393 mmol) and the reaction mixture was refluxed for 2 hours. The solvent was evaporated off and the residue was triturated with ether, collected by filtration and dried under vacuum to give 2-{[4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-yl]oxy}-N-hydroxyethanimidamide (14.5 g; 90% yield). 1H NMR (400 MHz; DMSO-d6): 3.98 (s, 3H), 4.58 (s, 2H), 5.70 (s, 2H), 7.38 (s, 1H), 7.65 (d, 1H), 7.84 (s, 1H), 7.89 (dd, 1H), 8.26 (d, 1H), 8.55 (s, 1H), 9.41 (s, 1H), 9.64 (s, 1H); MS (EI) for C17H15Cl2N5O3: 408.05 (MH+).

reactant | {[4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-yl]oxy}acetonitrile | 39.3 mmol, 14.7 g | ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OCC#N | C17H12Cl2N4O2
reactant | NH2OH | 393 mmol, 24.1 ml | NO | H3NO
solvent | EtOH | 600 ml | CCO | C2H6O
product | 2-{[4-[(3,4-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-yl]oxy}-N-hydroxyethanimidamide | 14.5 g, 90% yield | ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OCC(NO)=N | C17H15Cl2N5O3
